US05804585
E. N-(4-chloro-3-methyl-5-isoxazolyi)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide (0.26 g, 0.44 mmoles), methanol (7 ml) and 4N HCl (1.5 ml), giving 0.21 g (97%) of the title compound as a yellow foamy solid, m.p. 40°-45° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.44 mmoles, 0.26 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(CCC2=CC1=C(C=C2)OCO1)=O)COCCOC)C | C25H24ClN3O8S2
reactant | HCl | 4N, 1.5 ml | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
product | N-(4-chloro-3-methyl-5-isoxazolyi)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.21 g, 97% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)C(CCC2=CC1=C(C=C2)OCO1)=O)C | C21H16ClN3O6S2
